### PR TITLE
[Merged by Bors] - feat: measurable parametric Stieltjes functions

### PR DESCRIPTION
**Pull request by RemyDegenne**
We provide tools to build a measurable function `α → StieltjesFunction` with limits 0 at -∞ and 1 at +∞ for all `a : α` from a measurable function `f : α → ℚ → ℝ`. These measurable parametric Stieltjes functions are cumulative distribution functions (CDF) of Markov kernels.
The reason for going through `ℚ` instead of defining directly a Stieltjes function is that since `ℚ` is countable, building a measurable function is easier and we can obtain properties of the form `∀ᵐ (a : α) ∂μ, ∀ (q : ℚ), ...` (for some measure `μ` on `α`) by proving the weaker `∀ (q : ℚ), ∀ᵐ (a : α) ∂μ, ...`.

TODO: I will later refactor the CondCdf file to use this file. This will also be used in another new file to build CDFs of kernels, towards proving disintegration of kernels.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 1]
```diff
@@ -0,0 +1,494 @@
...
+
+section ToRatCDF
+
+variable {f : α → ℚ → ℝ}
+
+open Classical in
+/-- Turn a function `f : α → ℚ → ℝ` into another with the property `IsRatCDF`.
+Mainly useful when `f` satisfies the property `IsRatStieltjesPoint f a` almost everywhere. -/
+noncomputable
+def toRatCDF (f : α → ℚ → ℝ) : α → ℚ → ℝ := fun a ↦
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean:223]: With the current naming, this name is a little bit misleading as the result does not satisfy `IsRatCF` (it is not measurable). But if you change to `IsMeasRatCDF`, and keep `toRatCDF` for this one, then everything is fine :-)

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 2]
```diff
@@ -0,0 +1,494 @@
...
+lemma toRatCDF_unit_prod (a : α) :
+    toRatCDF (fun (p : Unit × α) ↦ f p.2) ((), a) = toRatCDF f a := by
+  unfold toRatCDF
+  rw [isRatStieltjesPoint_unit_prod_iff]
+
+end ToRatCDF
+
+section IsRatCDF.stieltjesFunction
+
+variable {f : α → ℚ → ℝ} (hf : IsRatCDF f)
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean:250]: The variable `hf` is not used in `IsRatCDF.stieltjesFunctionAux`, right? Could you move it after this definition?

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 3]
```diff
@@ -0,0 +1,494 @@
...
+      { toFun := fun t ↦ ⟨t.1, mod_cast t.2⟩
+        invFun := fun t ↦ ⟨t.1, mod_cast t.2⟩
+        left_inv := fun t ↦ by simp only [Subtype.coe_eta]
+        right_inv := fun t ↦ by simp only [Subtype.coe_eta] }
+  · intro t
+    simp only [Equiv.coe_fn_mk, Subtype.coe_mk]
+
+lemma IsRatCDF.stieltjesFunctionAux_unit_prod (a : α) :
+    IsRatCDF.stieltjesFunctionAux (fun (p : Unit × α) ↦ f p.2) ((), a) =
+  IsRatCDF.stieltjesFunctionAux f a := by simp_rw [IsRatCDF.stieltjesFunctionAux_def']
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean:275]:
```suggestion
      IsRatCDF.stieltjesFunctionAux f a :=
  by simp_rw [IsRatCDF.stieltjesFunctionAux_def']
```

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 4]
```diff
@@ -0,0 +1,494 @@
...
+end Measure
+
+end IsRatCDF.stieltjesFunction
+
+section stieltjesOfMeasurableRat
+
+variable {f : α → ℚ → ℝ}
+
+/-- Turn a measurable function `f : α → ℚ → ℝ` into a measurable function `α → StieltjesFunction`.
+Composition of `toRatCDF` and `IsRatCDF.stieltjesFunction`. -/
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean:432]: Could you emphasize in the docstring that, at a point `a` where `f a` is not the restriction of a Stieltjes function going from 0 at -infinity to 1 at +infinity, then `f a` is discarded and replaced by an arbitary choice?

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 5]
```diff
@@ -0,0 +1,494 @@
...
+
+
+/-- A function `f : α → ℚ → ℝ` is a (kernel) rational cumulative distribution function if it is
+measurable in the first argument and if `f a` satisfies a list of properties for all `a : α`:
+monotonicity between 0 at -∞ and 1 at +∞ and a form of continuity.
+
+A function with these properties can be extended to a measurable function `α → StieltjesFunction`.
+See `ProbabilityTheory.IsRatCDF.stieltjesFunction`.
+-/
+structure IsRatCDF (f : α → ℚ → ℝ) : Prop where
```
[the remark this answers is not in the document]
Comment (RemyDegenne) [reply Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean]: I changed it to IsMeasurableRatCDF.

File: Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean [hunk 6]
```diff
@@ -0,0 +1,505 @@
...
+  if IsRatStieltjesPoint f a then f a else defaultRatCDF
+
+lemma toRatCDF_of_isRatStieltjesPoint {a : α} (h : IsRatStieltjesPoint f a) (q : ℚ) :
+    toRatCDF f a q = f a q := by
+  rw [toRatCDF, if_pos h]
+
+lemma measurable_toRatCDF (hf : Measurable f) : Measurable (toRatCDF f) :=
+  Measurable.ite (measurableSet_isRatStieltjesPoint hf) hf measurable_const
+
+lemma IsMeasurableRatCDF_toRatCDF (hf : Measurable f) :
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Disintegration/MeasurableStieltjes.lean:239]:
```suggestion
lemma isMeasurableRatCDF_toRatCDF (hf : Measurable f) :
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
